US07691882B2
2-Amino-6-chloro-nicotinic acid
A mixture of 2,6-dichloro-nicotinic acid (31 g, 0.14 mol) and 28% aqueous ammonia solution (200 mL) was stirred in a sealed tube for 10 hours at 135° C. This reaction solution was cooled to room temperature, and the excess ammonia gas was removed under a reduced pressure. Water was added to the residue to a total of 1000 mL, the mixture was cooled to 0° C., and citric acid was added to a pH being about 6. The precipitated solids were filtered out to obtain the title compound (12 g, 49%).

reactant | 2,6-dichloro-nicotinic acid | 0.14 mol, 31 g | ClC1=C(C(=O)O)C=CC(=N1)Cl | C6H3Cl2NO2
reactant | ammonia | 200 mL | N | H3N
product | 2-Amino-6-chloro-nicotinic acid | 12 g, 49% | NC1=C(C(=O)O)C=CC(=N1)Cl | C6H5ClN2O2
